US08685969B2
6. 4-(3-(Benzyloxycarbonylamino)-2-methylphenyl)-7-((2-(trimethylsilyl)ethoxy)carbonylamino)-9H-pyrido[3,4-b]indole-1-carboxamide
To a dark, homogeneous solution of 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-((2-(trimethylsilyl)ethoxy)carbonylamino)-9H-pyrido[3,4-b]indole-1-carboxylic acid (0.4181 g, 0.685 mmol) in DMF (2.74 mL) were added ammonium chloride (0.146 g, 2.74 mmol), BOP (0.394 g, 0.890 mmol), DIPEA (0.574 mL, 3.29 mmol) and N-methylmorpholine (0.294 mL, 2.67 mmol). After 2.5 hr, water was added, and the precipitate was collected and dried over Drierite to give the desired product (0.365 g, 0.599 mmol, 87% yield) as a light brown solid.

reactant | 4-(3-(benzyloxycarbonylamino)-2-methylphenyl)-7-((2-(trimethylsilyl)ethoxy)carbonylamino)-9H-pyrido[3,4-b]indole-1-carboxylic acid | 0.685 mmol, 0.4181 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)NC(=O)OCC[Si](C)(C)C)C(=O)O)C | C33H34N4O6Si
reactant | ammonium chloride | 2.74 mmol, 0.146 g | [Cl-].[NH4+]
reactant | BOP | 0.890 mmol, 0.394 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | DIPEA | 3.29 mmol, 0.574 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylmorpholine | 2.67 mmol, 0.294 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2.74 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(3-(Benzyloxycarbonylamino)-2-methylphenyl)-7-((2-(trimethylsilyl)ethoxy)carbonylamino)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.599 mmol, 0.365 g, 87% yield | C(C1=CC=CC=C1)OC(=O)NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)NC(=O)OCC[Si](C)(C)C)C(=O)N)C | C33H35N5O5Si
